US04281019
2,3-Dihydroxypropyl 4-(4-tetradecenylamino)phenylpropionate
A solution of 11.8 g. of 4-(4-tetradecenylamino)phenylpropionic acid, 1.00 g. of glycerol, and 5.35 ml. of boron trifluoride etherate in 200 ml. of toluene is stirred under reflux for 48 hours. The solution is treated with an additional 5.35 ml. of boron trifluoride etherate and refluxing is continued for 120 hours. Dilution with water and methylene chloride followed by filtration affords the product as a white solid.

reactant | 4-(4-tetradecenylamino)phenylpropionic acid | C(CCC=CCCCCCCCCC)NC1=CC=C(C=C1)C(C(=O)O)C | C23H37NO2
reactant | glycerol | OCC(O)CO | C3H8O3
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,3-Dihydroxypropyl 4-(4-tetradecenylamino)phenylpropionate | C(CCC=CCCCCCCCCC)NC1=CC=C(C=C1)C(C(=O)OCC(CO)O)C | C26H43NO4
